US06329405B1
(121a) N-(3,4-Difluorobenzyl)-N-[(4-methoxyphenyl)-(3-nitrophenyl)methyl]amine
Following a similar procedure to that described in Example (1a), 8.91 g of 4-methoxyphenyl 3-nitrophenyl ketone and 4.96 g of 3,4-difluorobenzylamine were reacted, to obtain 12.72 g of the title compound as a pale yellow oil.

reactant | 4-methoxyphenyl 3-nitrophenyl ketone | 8.91 g | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)C1=CC=C(C=C1)OC | C14H11NO4
reactant | 3,4-difluorobenzylamine | 4.96 g | FC=1C=C(CN)C=CC1F | C7H7F2N
product | N-(3,4-Difluorobenzyl)-N-[(4-methoxyphenyl)-(3-nitrophenyl)methyl]amine | 12.72 g | FC=1C=C(CNC(C2=CC(=CC=C2)[N+](=O)[O-])C2=CC=C(C=C2)OC)C=CC1F | C21H18F2N2O3
